US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Methoxyphenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (CDCl3, 400 MHz) 6.62 (m, 1H), 6.48 (m, 3H), 5.01 (s, 2H), 3.73 (s, 3H), 3.61 (m, 4H), 3.43 (m, 2H), 2.31 (s, 3H) ppm; MS (ES) M+H expected=439.0, found 439.1.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Methoxyphenyl)-piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C(F)(F)F | C18H20ClF3N4O2
